US09302989B2
N-{4-[(3-phenylpropyl)carbamoyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
4-(Isoindoline-2-carboxamido)benzoic acid (150 mg, 0.531 mmol) and 1-hydroxybenzotriazole hydrate (122 mg, 0.797 mmol) were dissolved in dimethylformamide (3 ml) followed by addition of 3-phenylpropan-1-amine (110 mg, 0.797 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (153 mg, 0.797 mmol). The homogeneous solution was stirred at ambient temperature overnight. The solution was diluted with water to give a precipitate which was filtered, washed with cold ethyl acetate then ether and dried under vacuum to provide the title compound. 1H NMR (400 MHz, DMSO-d6, Temp=90° C.) δ ppm 8.27-8.34 (bs, 1H), 7.93-7.98 (m, 1H), 7.73-7.76 (m, 2H), 7.61-7.64 (m, 2H), 7.32-7.36 (m, 2H), 7.27-7.32 (m, 2H), 7.24-7.28 (m, 2H), 7.19-7.24 (m, 2H), 7.13-7.18 (m, 1H), 4.79 (s, 4H), 3.30 (q, J=6.5 Hz, 2H), 2.65 (t, J=7.6 Hz, 2H), 1.86 (p, J=7.3 Hz, 2H); MS (ESI(+)) m/e 400 (M+H)+.

reactant | 4-(Isoindoline-2-carboxamido)benzoic acid | 0.531 mmol, 150 mg | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
reactant | 1-hydroxybenzotriazole hydrate | 0.797 mmol, 122 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-phenylpropan-1-amine | 0.797 mmol, 110 mg | C1(=CC=CC=C1)CCCN | C9H13N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.797 mmol, 153 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{4-[(3-phenylpropyl)carbamoyl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C1(=CC=CC=C1)CCCNC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C25H25N3O2
